Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
bee venom protein (honey bee) / Penicillins
 
Attending: ___.
 
Chief Complaint:
BRBPR
 
Major Surgical or Invasive Procedure:
Colonoscopy with endoclip placement ___

 
History of Present Illness:
Mr. ___ is an ___ year old man with history of CAD (s/p CABG in
___ and MI in ___ due to graft occlusion) and recent
colonoscopy with polypectomies (on ___, who presented with
___ episodes of BRBPR since 8pm on day of presentation. 
 
The patient underwent colonoscopy on ___ due to a positive
Cologuard, with hot snare polypectomies of a single sessile 8mm
non-bleeding polyp removed from the sigmoid colon and a single
pedunculated 10mm polyp with stigmata of recent bleeding removed
from the ascending colon. One endoclip was applied to each for
hemostasis. He held his home Plavix for 4 days pre-procedurally,
and continued his home ASA.  

Initially the patient had no bleeding post-operatively. He had
his first BM since colonoscopy on the evening of ___, and
since had ___ episodes of watery diarrhea with fresh blood and
sticky clots in each BM. Patient was unable to quantify how much
blood he has passed. He denied any abdominal pain, chest pain,
SOB, dizziness/lightheadness, N/V, headaches, visual sxs.  
 
Past Medical History:
CAD s/p CABG ___  
MI ___  
HLD  
Hernia repair  
Tonsillectomy  
Appendectomy  
 
Social History:
___
Family History:
Denies family history of CAD or bleeding conditions
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
=======================
VITALS: 98.8 PO 155 / 83 67 18 99 RA  
GENERAL: Alert and interactive. In no acute distress.  
HEENT: PERRL, EOMI. Sclera anicteric and without injection. MMM. 

NECK: No cervical lymphadenopathy. No JVD.  
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.  
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.  
BACK: No CVA tenderness.  
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants. No organomegaly.  
EXTREMITIES: No clubbing, cyanosis, or edema. Pulses DP/Radial 
2+
bilaterally.  
SKIN: Warm. Cap refill <2s. No rashes.  
NEUROLOGIC: AOx3. CN2-12 intact. Moving all 4 limbs
spontaneously. ___ strength throughout. Normal sensation

DISCHARGE PHYSICAL EXAM:
========================
24 HR Data (last updated ___ @ 727)
    Temp: 98.2 (Tm 98.3), BP: 132/80 (95-133/51-80), HR: 58
(58-75), RR: 18 (___), O2 sat: 97% (97-98), O2 delivery: Ra  
GENERAL: Alert and interactive. In no acute distress.  
HEENT: PERRL, EOMI. Sclera anicteric and without injection. MMM. 

NECK: No cervical lymphadenopathy. No JVD.  
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.  
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.  
BACK: No CVA tenderness.  
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants. No organomegaly.  
EXTREMITIES: No clubbing, cyanosis, or edema. Pulses DP/Radial 
2+
bilaterally.  
SKIN: Warm. No rashes.  
NEUROLOGIC: AOx3. Moving all 4 limbs
spontaneously. ___ strength throughout. Normal sensation. 
 
Pertinent Results:
INITIAL LABS:
=============
___ 01:18AM   PLT COUNT-152
___ 01:18AM   NEUTS-71.9* LYMPHS-14.9* MONOS-7.9 EOS-4.2 
BASOS-0.5 IM ___ AbsNeut-8.70* AbsLymp-1.80 AbsMono-0.96* 
AbsEos-0.51 AbsBaso-0.06
___ 01:18AM   WBC-12.1* RBC-4.35* HGB-13.2* HCT-39.9* 
MCV-92 MCH-30.3 MCHC-33.1 RDW-13.8 RDWSD-46.1
___ 01:18AM   ALBUMIN-4.4 CALCIUM-9.5 PHOSPHATE-3.8 
MAGNESIUM-1.9
___ 01:18AM   ALT(SGPT)-22 AST(SGOT)-24 ALK PHOS-114 TOT 
BILI-0.5
___ 01:18AM   estGFR-Using this
___ 01:18AM   GLUCOSE-114* UREA N-27* CREAT-1.0 SODIUM-142 
POTASSIUM-4.1 CHLORIDE-100 TOTAL CO2-25 ANION GAP-17
___ 03:43AM   ___ PTT-30.0 ___
___ 04:31AM   PLT COUNT-140*
___ 04:31AM   WBC-11.0* RBC-3.76* HGB-11.6* HCT-33.9* 
MCV-90 MCH-30.9 MCHC-34.2 RDW-13.8 RDWSD-45.2
___ 12:58PM   ___ PTT-28.0 ___
___ 12:58PM   PLT COUNT-140*
___ 12:58PM   WBC-7.5 RBC-3.89* HGB-11.8* HCT-35.7* MCV-92 
MCH-30.3 MCHC-33.1 RDW-13.8 RDWSD-46.3
___ 07:20PM   ___ PTT-29.6 ___
___ 07:20PM   PLT COUNT-109*
___ 07:20PM   WBC-6.7 RBC-3.27* HGB-10.1* HCT-30.2* MCV-92 
MCH-30.9 MCHC-33.4 RDW-14.0 RDWSD-46.7*

MICRO:
======
None

IMAGING:
========
Colonoscopy ___:
- Moderate diverticulosis of the sigmoid colon
- A clean based 10mm ulcer was seen in the sigmoid colon with an 
overlying clip at the site of the previous polypectomy. There 
was no stigmata of recent bleeding
- A linear 12mm ulceration was noted in the ascending colon at 
the site of ascending colon polypectomy. There were three red 
spots within the ulceration concerning for stigmata of recent 
bleeding (endoclip)

PERTINENT LABS:
===============
___ 04:31AM BLOOD WBC-11.0* RBC-3.76* Hgb-11.6* Hct-33.9* 
MCV-90 MCH-30.9 MCHC-34.2 RDW-13.8 RDWSD-45.2 Plt ___
___ 12:58PM BLOOD WBC-7.5 RBC-3.89* Hgb-11.8* Hct-35.7* 
MCV-92 MCH-30.3 MCHC-33.1 RDW-13.8 RDWSD-46.3 Plt ___
___ 07:20PM BLOOD WBC-6.7 RBC-3.27* Hgb-10.1* Hct-30.2* 
MCV-92 MCH-30.9 MCHC-33.4 RDW-14.0 RDWSD-46.7* Plt ___
___ 02:13AM BLOOD WBC-6.9 RBC-3.35* Hgb-10.3* Hct-30.9* 
MCV-92 MCH-30.7 MCHC-33.3 RDW-14.1 RDWSD-47.5* Plt ___

DISCHARGE LABS:
===============
___ 06:08AM BLOOD WBC-8.3 RBC-3.50* Hgb-10.7* Hct-32.8* 
MCV-94 MCH-30.6 MCHC-32.6 RDW-14.0 RDWSD-47.3* Plt ___
___ 06:08AM BLOOD Plt ___
___ 06:08AM BLOOD Glucose-138* UreaN-19 Creat-0.9 Na-144 
K-4.8 Cl-108 HCO3-26 AnGap-10
___ 06:08AM BLOOD Calcium-9.0 Phos-2.9 Mg-1.___RIEF SUMMARY:
==============
Mr. ___ is an ___ year old man with history of CAD (s/p CABG in 
___ and MI in ___ due to graft occlusion) and recent 
colonoscopy with polypectomies (on ___, who presented with 
___ episodes of BRBPR since 8pm on day of presentation. 

The patient underwent colonoscopy on ___, with polypectomies. 
One endoclip was applied to each for hemostasis. He held his 
home Plavix for 4 days pre-procedurally, and continued his home 
ASA. Initially the patient had no bleeding post-operatively. He 
had his first BM since colonoscopy on the evening of ___, and 
since had ___ episodes of watery diarrhea with fresh blood and 
sticky clots in each BM. 

Once admitted, the patient's CBC was monitored q6h and GI was 
consulted who performed colonoscopy, which showed no active 
bleeding but evidence of prior bleeds to which two endoclips 
were attached. Hgb uptrending overnight ___ so pt was 
discharged home w/ cardiology and primary care f/u for 
management of Plavix and ___. 

ACTIVE ISSUES:
==============
#Acute post polypectomy lower GI bleed:
The patient underwent colonoscopy on ___ due to a positive
Cologuard, with hot snare polypectomies of a single sessile 8mm
non-bleeding polyp removed from the sigmoid colon and a single
pedunculated 10mm polyp with stigmata of recent bleeding removed
from the ascending colon. One endoclip was applied to each for
hemostasis. He held his home Plavix for 4 days pre-procedurally,
and continued his home ASA. Initially the patient had no 
bleeding post-operatively. He had his first BM since colonoscopy 
on the evening of ___, and since had ___ episodes of watery 
diarrhea with fresh blood and sticky clots in each BM. Patient 
was unable to quantify how much
blood he has passed.

While inpatient, his Hgb dropped from 13.2 in the ED to 11.6. 
His CBC was checked q6h. GI was consulted and patient was 
scheduled for a colonoscopy on the day of his admission. 
Colonoscopy showed no evidence of active bleed, but two 
endoclips were placed where evidence of prior bleed had 
occurred. His Hgb dropped to 10.1 after colonoscopy, but 
rebounded to 10.7 without administration of blood products the 
following morning. Due to stable Hgb and no evidence of active 
bleed, patient was discharged. His PCP was contacted to set-up 
outpt blood draw to assess Hgb and restart Plavix. Cardiology 
was also contacted for management of complex CAD history on 
DAPT.

#Leukocytosis:
WBC 12.1 on admission, pt denied any localizing s/s infection, 
including SOB, abdominal pain, urinary symptoms. Presumed stress 
response following colonoscopy, CBC followed, WBC 8.3 on day of 
discharge.

CHRONIC ISSUES:
===============
#CAD s/p CABG
#MI s/p stent
Home ASA was continued through bleed, but Plavix was held d/t 
concern for worsening GI bleed. Planned follow-up with PCP to 
restart as outpt. Imdur continued. Metoprolol held d/t concern 
for masking response to acute blood loss.

#HLD
Atovastatin continued.

TRANSITIONAL ISSUES:
====================
CODE: Full (presumed) 
CONTACT: no HCP chosen on file at ___
[]Recommend repeat CBC at first PCP visit within 1 week of 
discharge to ensure stability of blood counts (discharge hgb 
10.7, plts 129 on ___
[]PCP and cardiologist to determine safe start date of Plavix 
following recent post-colonoscopy GI bleed, Plavix held on 
discharge
[]Patient to coordinate outpatient cardiology follow-up with Dr. 
___ within 1 month of discharge, provided with ___ 
cardiology phone number as well if he wishes to follow-up 
[]Ensure patient is up-to-date with all age-appropriate 
malignancy screening
[]ensure patient is up-to-date with all applicable vaccinations
[]ensure patient has documented HCP
[]Pathology report from colonoscopy pending at time of discharge
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atorvastatin 40 mg PO QPM 
2. Aspirin 81 mg PO DAILY 
3. Clopidogrel 75 mg PO DAILY 
4. Metoprolol Tartrate 25 mg PO BID 
5. nitroglycerin 400 mcg/spray translingual PRN Angina 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY  
2.  Atorvastatin 40 mg PO QPM  
3.  Metoprolol Tartrate 25 mg PO BID  
4.  nitroglycerin 400 mcg/spray translingual PRN Angina  
5. HELD- Clopidogrel 75 mg PO DAILY  This medication was held. 
Do not restart Clopidogrel until you see your primary care 
doctor.

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
Lower GI bleed
Leukocytosis

SECONDARY DIAGNOSIS:
CAD s/p CABG, stent
MI
HLD

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a privilege taking care of you at ___ 
___.  

WHY WAS I ADMITTED TO THE HOSPITAL?
===================================
- You found blood in your stool.

WHAT HAPPENED WHILE I WAS IN THE HOSPITAL?
==========================================
- One of your home blood pressure medications, metoprolol, and 
your blood thinner, Plavix, were held.
- You received a colonoscopy that showed no active bleeding but 
evidence of prior bleeds. Two clips were placed to prevent 
further bleeding.

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?
============================================  
- Please continue to take all your medications and follow up 
with your doctors at your ___ appointments. We have 
contacted your primary care doctor who will set up an 
appointment with you to check your blood counts and restart your 
Plavix medication. You stated that will call your cardiologist 
and make an appointment within 1 month of discharge to follow-up 
and discuss need for continued Plavix.

It was a pleasure taking care of you, and we wish you all the 
best!

Sincerely,  
Your ___ Care Team 
 
Followup Instructions:
___